US09353082B2
b) N-cyclohexyl-4-(3-guanidinophenyl)-N-methyl-1H-imidazole-1-carboxamide hydrochloride
Gaseous anhydrous hydrogen chloride (0.096 mL, 1.156 mmol) was added to a stirred suspension of 4-(3-aminophenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide (0.345 g, 1.156 mmol) and cyanamide (0.135 mL, 1.734 mmol) in ethanol (1.2 mL) at room temperature. The clear solution was allowed to stir at reflux for 1 h and a colourless solid formed. The reaction mixture was allowed to stir at reflux for further 7 h, whereupon the mixture was allowed to cool. The solid was separated by filtration and washed with ethanol to give the product as a colourless solid, (298 mg, 68%).

reactant | hydrogen chloride | 1.156 mmol, 0.096 mL | Cl | ClH
reactant | 4-(3-aminophenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide | 1.156 mmol, 0.345 g | NC=1C=C(C=CC1)C=1N=CN(C1)C(=O)N(C)C1CCCCC1 | C17H22N4O
reactant | cyanamide | 1.734 mmol, 0.135 mL | N#CN | CH2N2
solvent | ethanol | 1.2 mL | C(C)O | C2H6O
product | N-cyclohexyl-4-(3-guanidinophenyl)-N-methyl-1H-imidazole-1-carboxamide hydrochloride | 298 mg, 68% | Cl.C1(CCCCC1)N(C(=O)N1C=NC(=C1)C1=CC(=CC=C1)NC(=N)N)C | InChI=1S/C18H24N6O.ClH/c1-23(15-8-3-2-4-9-15)18(25)24-11-16(21-12-24)13-6-5-7-14(10-13)22-17(19)20;/h5-7,10-12,15H,2-4,8-9H2,1H3,(H4,19,20,22);1H
